US04839360
To a stirred mixture of 7.7 g of 1-(4-chlorophenyl)-6-(4-methylthiophenyl)-2-piperidone, 80 ml of methylene chloride, 3 g of silica gel, and 2.2 g of water was added 3.44 g of sulfuryl chloride at 15° to 25° C., and the mixture was stirred at 15° to 25° C. for 2 hours. The reaction mixture was poured into a cold aqueous sodium hydrogen carbonate solution. The methylene chloride solution was washed with a saturated aqueous sodium chloride solution, dried, and concentrated. The residue was purified by silica gel column chromatography (solvent; ethyl acetate:ethanol=10:1) and recrystallization from ethyl acetate to give 7.69 g of 1-(4-chlorophenyl)-6-(4-methylsulfinylphenyl)-2-piperidone as colorless prisms.

reactant | 1-(4-chlorophenyl)-6-(4-methylthiophenyl)-2-piperidone | 7.7 g | ClC1=CC=C(C=C1)N1C(CCCC1C1=CC=C(C=C1)SC)=O | C18H18ClNOS
reactant | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
reactant | sulfuryl chloride | 3.44 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 2.2 g | O | H2O
product | 1-(4-chlorophenyl)-6-(4-methylsulfinylphenyl)-2-piperidone | 7.69 g, Yield: 95.2% | ClC1=CC=C(C=C1)N1C(CCCC1C1=CC=C(C=C1)S(=O)C)=O | C18H18ClNO2S
